US08309580B2
(1) ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl](methyl)amino}propanoate
A solution of 4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}benzoic acid (494 mg), ethyl 3-(methylamino)propanoate (157 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (230 mg), hydroxybenzotriazole monohydrate (184 mg) and triethylamine (167 μL) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and water, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (607 mg, 100%) as an oil.

reactant | 4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}benzoic acid | 494 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OCCCSC)C)NC1=CC=C(C(=O)O)C=C1 | C29H35NO4S
reactant | ethyl 3-(methylamino)propanoate | 157 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 230 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 184 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 167 μL | C(C)N(CC)CC | C6H15N
product | ethyl 3-{[(4-{[cyclohexyl(2-methyl-5-{4-[3-(methylsulfanyl)propoxy]phenyl}furan-3-yl)methyl]amino}phenyl)carbonyl](methyl)amino}propanoate | 607 mg, 100% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=C(C=C1)OCCCSC)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C35H46N2O5S
